US09227960B2
To a solution of 2-(4-bromo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester (3.60 g; 10.05 mmol) in CH2Cl2 (100 mL) was added 3-chloroperoxybenzoic acid (5.20 g; 30.14 mmol), at 0° C. The resulting mixture was stirred overnight at RT, and subsequently, a saturated aqueous sodium thiosulfate solution was added and the mixture stirred for another 30 min. The layers were separated and the aqueous layer was extracted twice with EtOAc. The combined EtOAc layers were washed twice with an aqueous Na2CO3 solution. The combined organic layers were dried (MgSO4), filtered and concentrated in vacuo to afford 2-(4-Bromo-phenyl)-1,1-dioxo-1λ6-thiomorpholine-4-carboxylic acid tert-butyl ester (4.06 g) which was used as such in the next step.

reactant | 2-(4-bromo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester | 10.05 mmol, 3.60 g | C(C)(C)(C)OC(=O)N1CC(SCC1)C1=CC=C(C=C1)Br | C15H20BrNO2S
reactant | 3-chloroperoxybenzoic acid | 30.14 mmol, 5.20 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-phenyl)-1,1-dioxo-1λ6-thiomorpholine-4-carboxylic acid tert-butyl ester | 4.06 g | C(C)(C)(C)OC(=O)N1CC(S(CC1)(=O)=O)C1=CC=C(C=C1)Br | C15H20BrNO4S
